US05028606
A mixture of 11.5 parts of intermediate 9, namely N-[4-[1-(1H-imidazol-1-yl)butyl]-2-nitrophenyl]acetamide and 150 parts of a hydrochloric acid solution 3N was stirred for 3 hours at reflux temperature. The reaction mixture was poured into crushed ice and the whole was neutralized with concentrated ammonium hydroxide. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated, yielding 8.8 parts (88.9%) of 4-[1-(1H-imidazol-1-yl)butyl]-2-nitrobenzenamine as a residue (interm. 10).

reactant | N-[4-[1-(1H-imidazol-1-yl)butyl]-2-nitrophenyl]acetamide | N1(C=NC=C1)C(CCC)C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C15H18N4O3
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-[1-(1H-imidazol-1-yl)butyl]-2-nitrobenzenamine | 88.9% | N1(C=NC=C1)C(CCC)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C13H16N4O2
